US08461328B2
A mixture of 3-(1-Benzene sulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-3-methyl-piperidine-1-carboxylic acid benzyl ester (400 mg, 0.73 mmol) and Raney Ni (1.0 g) in ethyl acetate (20 mL) was hydrogenated at 25° C. for 1.5 hours. The mixture was filtered through Celite, thoroughly washing the filter cake with methanol. The filtrate and washings were combined and concentrated under vacuum to give about 380 mg (100%) of 3-(5-Amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-3-methyl-piperidine-1-carboxyli c acid benzyl ester without further purification. LCMS (Method J, ESI): RT=1.04 min, m+H=519.8.

reactant | 3-(1-Benzene sulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-3-methyl-piperidine-1-carboxylic acid benzyl ester | 0.73 mmol, 400 mg | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)(C)NC1=C2C(=NC=C1[N+](=O)[O-])N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C27H27N5O6S
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | Ni | 1.0 g | [Ni] | Ni
product | 3-(5-Amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-3-methyl-piperidine-1-carboxyli c acid benzyl ester | about 380 mg, 100% | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)(C)NC1=C2C(=NC=C1N)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C27H29N5O4S
